US07381738B2
Part E. Preparation of N-(2-isopropyl-4-methoxymethyloctahydrocyclopenta[c]pyrrol-5-yl)-2-(6-trifluoromethylquinazolin-4-ylamino)acetamide
A mixture of 2-amino-N-(2-isopropyl-4-methoxymethyloctahydrocyclopenta[c]pyrrol-5-yl)acetamide, 4-chloro-6-trifluoromethylquinazoline (see Armarego et al., J. Chem. Soc. B, 1967, 449) and triethylamine in ethanol is heated at reflux until the reaction is complete. The solution is concentrated under vacuum yielding a residue. The residue is purified by reverse phase HPLC and lyophilization providing the title product.

reactant | 2-amino-N-(2-isopropyl-4-methoxymethyloctahydrocyclopenta[c]pyrrol-5-yl)acetamide | NCC(=O)NC1C(C2C(CN(C2)C(C)C)C1)COC | C14H27N3O2
reactant | 4-chloro-6-trifluoromethylquinazoline | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | N-(2-isopropyl-4-methoxymethyloctahydrocyclopenta[c]pyrrol-5-yl)-2-(6-trifluoromethylquinazolin-4-ylamino)acetamide | C(C)(C)N1CC2C(C1)C(C(C2)NC(CNC2=NC=NC1=CC=C(C=C21)C(F)(F)F)=O)COC | C23H30F3N5O2
